US06403534B1
1.2 g of 1-[2-chloro-4-fluoro-5-{3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl}phenoxy]cyclopropanecarboxylic acid was dissolved in 12 ml of thionyl chloride and the solution was heated under reflux for 2 hours. The reaction mixture was concentrated under reduced pressure to obtain 1-[2-chloro-4-fluoro-5-{3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl}phenoxy]cyclopropanecarboxylic acid chloride.

reactant | 1-[2-chloro-4-fluoro-5-{3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl}phenoxy]cyclopropanecarboxylic acid | 1.2 g | ClC1=C(OC2(CC2)C(=O)O)C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C16H11ClF4N2O5
reactant | thionyl chloride | 12 ml | S(=O)(Cl)Cl | Cl2OS
product | 1-[2-chloro-4-fluoro-5-{3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl}phenoxy]cyclopropanecarboxylic acid chloride | ClC1=C(OC2(CC2)C(=O)Cl)C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C16H10Cl2F4N2O4
